US06992087B2
Preparation of 2-ethyl-6-methoxyindan-1-one
Following the procedure for the preparation of 5-propyl-6,7-dihydro-1-benzothiophen-4(5H)-one but substituting 6-methoxy 1-tetralone and ethyl iodide, and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.02, 1.55, 1.99, 2.68, 2.77, 3.27, 3.86, 7.21, 7.37; HRMS (FAB) calcd for C12H14O2+H 191.1072, found 191.1075.

reactant | 5-propyl-6,7-dihydro-1-benzothiophen-4(5H)-one | C(CC)C1CCC2=C(C=CS2)C1=O | C11H14OS
reactant | 6-methoxy 1-tetralone | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-ethyl-6-methoxyindan-1-one | C(C)C1C(C2=CC(=CC=C2C1)OC)=O | C12H14O2
